US04458075
4-(4-Chlorophenoxy)-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-piperidine hydrochloride
To a solution of 9.5 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)-propyl]-4-hydroxypiperidine, 4.5 g of 4-chlorophenol and 9.8 g triphenylphosphine in 250 ml of benzene, cooled with an ice-bath, was slowly added over one hour a solution of 6.4 g of diethyl azodicarboxylate in 60 ml of benzene. After stirring one hr at ambient temperature, the reaction mixture was filtered and then concentrated to an oil. The oil was treated with ethereal hydrogen chloride to give 4.6 g (32%) of product, mp 209°-211° C. Recrystallization from ethyl acetate/methanol gave the analytical sample, mp 212°-213° C. (dec).

reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)-propyl]-4-hydroxypiperidine | 9.5 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)O)C=C1 | C15H19FN2O2
reactant | 4-chlorophenol | 4.5 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | triphenylphosphine | 9.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 4-(4-Chlorophenoxy)-1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-piperidine hydrochloride | 4.6 g, 32% | Cl.ClC1=CC=C(OC2CCN(CC2)CCCC2=NOC3=C2C=CC(=C3)F)C=C1 | InChI=1S/C21H22ClFN2O2.ClH/c22-15-3-6-17(7-4-15)26-18-9-12-25(13-10-18)11-1-2-20-19-8-5-16(23)14-21(19)27-24-20;/h3-8,14,18H,1-2,9-13H2;1H
